US05877191
Step B: 2-Amino-5-(3-bromo-4-isopropoxyphenyl)-4-methylthiazole
Thiourea (65 mg, 0.857 in mol) was added to 1-(3-bromo-4-isopropoxyphenyl)-1-bromo acetone (200 mg, 0.571 mmol) in 0.5 mL of methanol and the mixture was heated to 40° C. The mixture was then heated to 80° C. And 1.0 mL of methanol was added to facilitate stirring. After refluxing 3 h, the reaction was transferred to a separatory funnel with 50 mL of ethyl acetate and 30 mL of saturate aqueous sodium bicarbonate, the layers were separated, and the organic layer was washed with 30 mL of brine. Drying over sodium sulfate and evaporation gave the crude product. Purification by flash chromatography, eluting with 30-50% ethyl acetate in hexane, gave 124 mg of the title compound as a white solid. Mass spectrum (NH3/CI): m/z=327 (M+1).

reactant | Thiourea | 65 mg | NC(=S)N | CH4N2S
reactant | 1-(3-bromo-4-isopropoxyphenyl)-1-bromo acetone | 0.571 mmol, 200 mg | BrC=1C=C(C=CC1OC(C)C)C(C(=O)C)Br | C12H14Br2O2
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 0.5 mL | CO | CH4O
solvent | methanol | 1.0 mL | CO | CH4O
product | 2-Amino-5-(3-bromo-4-isopropoxyphenyl)-4-methylthiazole | 124 mg | NC=1SC(=C(N1)C)C1=CC(=C(C=C1)OC(C)C)Br | C13H15BrN2OS
